scheMAGIC Simulator document 3d86b9603f9572f8
* document-hash 3d86b9603f9572f8
V1 n1 0 SIN(0 1 1k) AC 1 $ component:c1
R2 n1 n2 1k $ component:c2
C3 n2 0 100n $ component:c3
.save all v1#branch @r2[i] @c3[i]
.ac dec 40 10 1000000
.end
