scheMAGIC Simulator document 3d86b9603f9572f8
* document-hash 3d86b9603f9572f8
V1 n1 0 SIN(0 1 1k) AC 1 $ component:c1
R2 n1 oc_ac_c2 1k $ component:c2
VOCSc2 oc_ac_c2 n2 0 $ component:c2
C3 n2 oc_ac_c3 100n $ component:c3
VOCSc3 oc_ac_c3 0 0 $ component:c3
.save all v1#branch vocsc2#branch vocsc3#branch
.ac dec 40 10 1000000
.end
